US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-3-(3-indolyl) propanoic acid (5 g) and ethyl 4-aminophenylacetate (2.36 g) were condensed in a mixed solvent of dichloromethane (100 ml) and acetonitrile (10 ml) in the presence of N,N'-dicyclohexylcarbodiimide (3.27 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol/acetonitrile (10/1) to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(3-indolyl)propanamide (4.86 g).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-3-(3-indolyl) propanoic acid | 5 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CNC2=CC=CC=C12 | C17H15ClN2O4S
reactant | ethyl 4-aminophenylacetate | 2.36 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | N,N'-dicyclohexylcarbodiimide | 3.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(3-indolyl)propanamide | 4.86 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CC1=CNC2=CC=CC=C12 | C27H26ClN3O5S
